US07511033B2
3′-(8-Methyl-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-3-sulfonic acid tert-butylamide
The title compound was prepared from 4-(3-bromo-phenyl)-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one (Example B.1) (200 mg, 0.50 mmol) and commercially available 3-tert-butylsulfamoyl-benzeneboronic acid [CAS-no. 221290-14-8] (155 mg, 0.60 mmol) according to the general procedure II. Obtained as a light yellow solid (275 mg, 97%). MS (ISP) 530.1 [(M+H)+]; mp 133° C. (dec).

reactant | 4-(3-bromo-phenyl)-7-methyl-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 0.50 mmol, 200 mg | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C)C(F)(F)F | C17H12BrF3N2O
reactant | 3-tert-butylsulfamoyl-benzeneboronic acid | 0.60 mmol, 155 mg | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | 3′-(8-Methyl-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-3-sulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=C(C(=C2)C(F)(F)F)C)=O | C27H26F3N3O3S
